US07186734B2
2,6-Diethyl bromobenzene (38.2 g, 180.2 mmol) is added dropwise through an additional funnel over a 1 hour period to a solution of n-BuLi (2.0 M in cyclohexane, 99.1 ml, 198.2 mmol) in THF (380 mL) at −75° C. After addition, the reaction mixture is stirred at −75° C. for 30 minutes; trimethyl borate (28.1 g, 270.3 mmol) is added slowly over a 40 minute period. The reaction mixture is warmed to room temperature overnight. 2N HCl (250 mL) is added slowly and the resulting mixture is stirred for 1 hour. The organic layer is separated and the aqueous layer is extracted with ether (2×200 mL). The combined organic layers are dried over anhydrous Na2SO4 and the solvents are removed in vacuo. Hexane (400 mL) is added to the residue and a white precipitate is formed. Filtration and drying in vacuo gives 19.0 g of 2,6-diethylphenyl boronic acid as a white solid. 1H NMR: (CDCl3) 7.22 (t, 1H), 7.04 (s, 2H), 4.65 (s, 2H), 2.64 (q, 4H), 1.22 (t, 6H).

reactant | 2,6-Diethyl bromobenzene | 180.2 mmol, 38.2 g | C(C)C1=C(C(=CC=C1)CC)Br | C10H13Br
reactant | n-BuLi | 198.2 mmol, 2.0 M, 99.1 ml | [Li]CCCC
reactant | trimethyl borate | 270.3 mmol, 28.1 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 2N, 250 mL | Cl | ClH
solvent | THF | 380 mL | C1CCOC1 | C4H8O
product | 2,6-diethylphenyl boronic acid | 19.0 g | C(C)C1=C(C(=CC=C1)CC)B(O)O | C10H15BO2
